US07659297B2
4-Chloro-3-methoxybenzyl bromide
57 g (363.96 mmol) of 2-chloro-5-methylanisole is dissolved in 800 ml of carbon tetrachloride and mixed at room temperature with 69.9 g (393.08 mmol) of N-bromosuccinimide. After 174.6 mg of benzoyl peroxide is added, it is refluxed for five hours (bath temperature 105° C.). The reaction mixture is suctioned off via a glass fiber filter, rewashed, and the solution is spun in in a rotary evaporator. 83.6 g (97.5%) of the desired product (contains traces of starting material and dibromide), which is incorporated in crude form into the next stage, is obtained.

reactant | 2-chloro-5-methylanisole | 363.96 mmol, 57 g | ClC1=C(C=C(C=C1)C)OC | C8H9ClO
reactant | N-bromosuccinimide | 393.08 mmol, 69.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 174.6 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-3-methoxybenzyl bromide | ClC1=C(C=C(CBr)C=C1)OC | C8H8BrClO
